US08222416B2
To a stirred solution of 1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridine (2 g, 5.59 mmol) in dry tetrahydrofuran (30 mL) at −78° C. was added freshly prepared lithium diisopropylamide [prepared by adding 1.6 M n-butyllithium in n-hexane (5.24 mL, 8.39 mmol) to a 0° C. solution of diisopropylamine (1.3 mL, 9.2 mmol) in dry tetrahydrofuran (15 mL)] dropwise. The mixture was stirred at −78° C. for 15 min and then a solution of cyclopentanecarbaldehyde (940 mg, 8.38 mmol) was added dropwise. The mixture was stirred at −78° C. for 1 h then quenched with brine. The mixture was extracted with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) afforded 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol (1.7 g, 66%) as a white solid: LC/MS m/e calcd for C25H31N2SO5 [M+H]+ 471.59, observed 471.3; 1H NMR (400 MHz, CDCl3) δ ppm 1.25 (m, 2H), 1.48-1.75 (m, 4H), 1.49 (s, 3H), 1.56 (s, 3H), 1.80-2.17 (m, 5H, H), 3.30 (br. s., 1H), 3.71 (dd, J=7.6 Hz, 8.3 Hz, 1H), 4.33 (dd, J=6.3 Hz, 8.3 Hz, 1H), 5.14 (dd, J=6.3 Hz, 7.6 Hz, 1H), 5.36 (br, 1H), 6.63 (s, 1H), 7.47 (m, 2H), 7.57 (m, 1H), 7.81 (d, J=2.0 Hz, 1H), 8.15 (d, J=8.2 Hz, 2H), 8.37 (d, J=2.0 Hz, 1H).

reactant | 1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridine | 5.59 mmol, 2 g | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=2C1=NC=C(C2)C2OC(OC2)(C)C | C18H18N2O4S
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | n-hexane | 8.39 mmol, 5.24 mL | CCCCCC | C6H14
reactant | diisopropylamine | 9.2 mmol, 1.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | cyclopentanecarbaldehyde | 8.38 mmol, 940 mg | C1(CCCC1)C=O | C6H10O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-[1-benzenesulfonyl-5-(2,2-dimethyl-[1,3]dioxolan-4-yl)-1H-pyrrolo[2,3-b]pyridin-2-yl]-2-cyclopentyl-ethanol | 1.7 g, 66% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)C2OC(OC2)(C)C)C(CC2CCCC2)O | C25H30N2O5S
